US08383652B2
In a manner similar to that of Example 34a, 3 mg (0.013 mmol) of palladium acetate and then 9 mg (0.026 mmol) of 2-(dicyclohexylphosphino)biphenyl are added to a mixture of 505 mg (1.3 mmol) of ethyl (E)-3-(3-butoxy-4-iodophenyl)-2-methylacrylate prepared as described in Example 19h, 494 mg (1.7 mmol) of 3-heptyl-1-methyl-1-[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]urea and 1.3 mL of aqueous 2 M potassium phosphate solution in 6.5 mL of dimethylformamide. The reaction mixture is heated at 90-95° C. for 2 hours. The reaction medium is hydrolyzed with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated off and the brown oil obtained (1.3 g) is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture. 558 mg (84%) of ethyl (E)-3-[2-butoxy-3′-(3-heptyl-1-methyl-ureido)biphenyl-4-yl]-2-methylacrylate are obtained.

reactant | ethyl (E)-3-(3-butoxy-4-iodophenyl)-2-methylacrylate | 1.3 mmol, 505 mg | C(CCC)OC=1C=C(C=CC1I)/C=C(/C(=O)OCC)\C | C16H21IO3
reactant | 3-heptyl-1-methyl-1-[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]urea | 1.7 mmol, 494 mg | C(CCCCCC)NC(N(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C21H35BN2O3
reactant | potassium phosphate | 2 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.013 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.026 mmol, 9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | ethyl (E)-3-[2-butoxy-3′-(3-heptyl-1-methyl-ureido)biphenyl-4-yl]-2-methylacrylate | 558 mg, 84% | C(CCC)OC1=C(C=CC(=C1)/C=C(/C(=O)OCC)\C)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C31H44N2O4
